US07955596B2
5-(dibromomethylene)-2(5H)-furanone (“furanone 5”)
The furanones to be used in accordance with the present invention may be obtained from natural sources or chemically synthesized. For example, (5Z)-4-bromo-5-(bromomethylene)-3-butyl-2(5H)-furanone and 3-butyl-5-(dibromomethylene)-2-(5H)-furanone may be extracted and purified from seaweed (e.g., the marine algae Delisea pulchra) as previously described (see, e.g., de Nys et al. Tetrahedron 1993; 49:11213-11220). Alternatively, (5Z)-4-bromo-5-(bromomethylene)-3-butyl-2(5H)-furanone, 3-butyl-5-(dibromomethylene)-2-(5H)-furanone, 5-(bromomethylene)-2-(5H)-furanone, 4-bromo-5-(bromomethylene)-2(5H)-furanone, and/or 5-(dibromomethylene)-2(5H)-furanone may be chemically synthesized as previously described (see, e.g.: Beechan and Sims. Tetrahedron Letters 1979; 19:1649-1652; Manny et al. Tetrahedron. 1997; 53:15813-15826; and Ren, Sims and Wood. Let. Appl. Microbiol. 2002; 34-293-299).

reactant | (5Z)-4-bromo-5-(bromomethylene)-3-butyl-2(5H)-furanone | BrC/1=C(C(O\C1=C/Br)=O)CCCC | C9H10Br2O2
reactant | 3-butyl-5-(dibromomethylene)-2-(5H)-furanone | C(CCC)C=1C(OC(C1)=C(Br)Br)=O | C9H10Br2O2
product | 5-(dibromomethylene)-2(5H)-furanone | BrC(=C1C=CC(O1)=O)Br | C5H2Br2O2
